US06528535B2
2-[(E)-1-Cyclohexylmethylidene]-6-[2-(1H-1-imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone, hydrochloride
A solution of 0.2 g (0.8 mmol) of 6-[2-(1H-1-imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone in 2 mL of 4% KOH in EtOH was treated with 0.1 mL (0.8 mmol) of cyclohexylaldehyde and the solution allowed to stir at room temperature for 3 days. The solution was diluted with CH2Cl2 and the layers separated. The CH2Cl2 was washed with saturated NaCl and dried over MgSO4. The CH2Cl2 was treated with HCl gas and the solvent removed. The residue was taken up in H2O and freeze-dried. There was obtained 35 mg (10% yield) of a hygroscopic solid. The structure was confirmed by mass spectroscopy. MS m/z 351 (m+H+).

reactant | 6-[2-(1H-1-imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone | 0.8 mmol, 0.2 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | KOH | 2 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 2-[(E)-1-Cyclohexylmethylidene]-6-[2-(1H-1-imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone, hydrochloride | 35 mg, 10% yield | Cl.C1(CCCCC1)\C=C/1\C(C2=CC=C(C=C2CC1)OCCN1C=NC=C1)=O | InChI=1S/C22H26N2O2.ClH/c25-22-19(14-17-4-2-1-3-5-17)7-6-18-15-20(8-9-21(18)22)26-13-12-24-11-10-23-16-24;/h8-11,14-17H,1-7,12-13H2;1H/b19-14+;
